US06821977B2
8-[(5-Chloro-1H-indole-2-carbonyl)amino]-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid
8-[(5-Chloro-1H-indole-2-carbonyl)amino]-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester (120 mg) was dissolved in a mixture of THF/water and 0.3 mL of 1N KOH. The reaction was stirred at room temperature overnight, made acidic with 1N HCl and then extracted with EtOAc. The organic extract was washed with water, brine and dried with MgSO4. This afforded 35 mg of product. MS POS: M+ 387/389.

reactant | 8-[(5-Chloro-1H-indole-2-carbonyl)amino]-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester | 120 mg | COC(=O)C1=CC(=CC=2OCCCOC21)NC(=O)C=2NC1=CC=C(C=C1C2)Cl | C20H17ClN2O5
reactant | HCl | 1N | Cl | ClH
solvent | THF water | C1CCOC1.O
solvent | KOH | 1N, 0.3 mL | [OH-].[K+]
product | 8-[(5-Chloro-1H-indole-2-carbonyl)amino]-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)NC=1C=C(C2=C(OCCCO2)C1)C(=O)O | C19H15ClN2O5
